US07863347B2
Next, a synthesis was performed in the same condition as in Synthesis example 1 except that 50.2 g of the 9,9-bis(4-(3-benzyloxy-4-nitrophenoxy)-phenyl)-2,7-di(1-adamantyl)-fluorene obtained above (46.8 mmol) was used in place of 39.0 g of 4,6-di(1-adamantyl)-1,3-bis(3-benzyloxy-4-nitrophenoxy)benzene mmol), thus obtaining 34.6 g of 9,9-bis(4-(4-amino-3-hydroxyphenoxy)-phenyl)-2,7-di(1-adamantyl)-fluorene (41.5 mmol; yield: 88.7%).

reactant | 9,9-bis(4-(3-benzyloxy-4-nitrophenoxy)-phenyl)-2,7-di(1-adamantyl)-fluorene | 50.2 g | C(C1=CC=CC=C1)OC=1C=C(OC2=CC=C(C=C2)C2(C3=CC(=CC=C3C=3C=CC(=CC23)C23CC4CC(CC(C2)C4)C3)C34CC2CC(CC(C3)C2)C4)C4=CC=C(C=C4)OC4=CC(=C(C=C4)[N+](=O)[O-])OCC4=CC=CC=C4)C=CC1[N+](=O)[O-] | C71H64N2O8
reactant | 4,6-di(1-adamantyl)-1,3-bis(3-benzyloxy-4-nitrophenoxy)benzene | 39.0 g | C12(CC3CC(CC(C1)C3)C2)C2=C(C=C(C(=C2)C23CC1CC(CC(C2)C1)C3)OC3=CC(=C(C=C3)[N+](=O)[O-])OCC3=CC=CC=C3)OC3=CC(=C(C=C3)[N+](=O)[O-])OCC3=CC=CC=C3 | C52H52N2O8
product | 9,9-bis(4-(4-amino-3-hydroxyphenoxy)-phenyl)-2,7-di(1-adamantyl)-fluorene | 41.5 mmol, 34.6 g, yield: 88.7% | NC1=C(C=C(OC2=CC=C(C=C2)C2(C3=CC(=CC=C3C=3C=CC(=CC23)C23CC4CC(CC(C2)C4)C3)C34CC2CC(CC(C3)C2)C4)C4=CC=C(C=C4)OC4=CC(=C(C=C4)N)O)C=C1)O | C57H56N2O4
